US07745438B2
4-(R)-[1-(S)-benzyloxy-3-(3-benzyloxyphenyl)-2-(S)-dibenzylaminopropyl]-2,2-dimethyloxazolidine-3-carboxylic acid tert-butyl ester
Add tricaprylmethylammonium chloride (Aliquat® 336) (4.5 g, 11.2 mmol) and tetrabutylammonium bromide (TBAB) (5.7 g, 15.7 mmol) to a solution of 4-(R)-[2-(S)-amino-1-(S)-hydroxy-3-(3-hydroxyphenyl)-propyl]-2,2-dimethyloxazolidine-3-carboxylic acid tert-butyl ester (16.45 g, crude) in tetrahydrofuran (200 mL). Add portionwise 95% sodium hydride (2.6 g, 90 mmol) and stir for 10 minutes. Add benzyl bromide (13.4 mL, 112.5 mmol) and heat at 60° C. for 40 minutes and concentrate. Add more 95% sodium hydride (5.4 g, 225 mmol) and benzyl bromide (27 mL, 225 mmol) in tetrahydrofuran (−5 mL) and stir overnight at 65° C. Dilute with ethyl acetate, quench with water (300 mL), wash with water, and saturated aqueous sodium chloride. Extract the aqueous washes with ethyl acetate, comvine the organic layers, dry (magnesium sulfate), filter and purify twice (silica gel chromatography, eluting with 5:95 to 10:90 ethyl acetate:hexanes) to give the desired compound as an orange residue (16.01 g, 49%).

reactant | 4-(R)-[2-(S)-amino-1-(S)-hydroxy-3-(3-hydroxyphenyl)-propyl]-2,2-dimethyloxazolidine-3-carboxylic acid tert-butyl ester | 16.45 g | C(C)(C)(C)OC(=O)N1C(OC[C@@H]1[C@H]([C@H](CC1=CC(=CC=C1)O)N)O)(C)C | C19H30N2O5
reactant | sodium hydride | 90 mmol, 2.6 g | [H-].[Na+]
reactant | benzyl bromide | 112.5 mmol, 13.4 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | sodium hydride | 225 mmol, 5.4 g | [H-].[Na+]
reactant | benzyl bromide | 225 mmol, 27 mL | C(C1=CC=CC=C1)Br | C7H7Br
catalyst | tricaprylmethylammonium chloride | 11.2 mmol, 4.5 g | CCCCCCCC[N+](C)(CCCCCCCC)CCCCCCCC.[Cl-]
catalyst | tetrabutylammonium bromide | 15.7 mmol, 5.7 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | −5 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(R)-[1-(S)-benzyloxy-3-(3-benzyloxyphenyl)-2-(S)-dibenzylaminopropyl]-2,2-dimethyloxazolidine-3-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(OC[C@@H]1[C@H]([C@H](CC1=CC(=CC=C1)OCC1=CC=CC=C1)N(CC1=CC=CC=C1)CC1=CC=CC=C1)OCC1=CC=CC=C1)(C)C | C47H54N2O5
